US07470791B2
Synthesis of Roflumilast—Coupling Step
The potassium salt suspension of the anion of 4-amino-3,5-dichloropyridine in DMF (2-2.5 equivalents) is introduced into a reaction vessel. A solution of 3-cyclopropylmethoxy-4-difluoromethoxybenzoyl chloride (1 equivalent) in DMF is slowly added to this suspension while stirring vigorously at a temperature of 15 to 40° C., preferably 20 to 30° C. After the reaction is complete, water is slowly added while stirring at 15-25° C., and the pH is adjusted to 2-3 with hydrochloric acid.

reactant | potassium | [K] | K
reactant | 4-amino-3,5-dichloropyridine | NC1=C(C=NC=C1Cl)Cl | C5H4Cl2N2
reactant | 3-cyclopropylmethoxy-4-difluoromethoxybenzoyl chloride | 1 equivalent | C1(CC1)COC=1C=C(C(=O)Cl)C=CC1OC(F)F | C12H11ClF2O3
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 2-2.5 equivalents | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Roflumilast | C1=CC(=C(C=C1C(=O)NC=2C(=CN=CC2Cl)Cl)OCC3CC3)OC(F)F | C17H14Cl2F2N2O3
